US08039480B2
13.3 mg of 1-aminocyclopropanecarbonitrile hydrochloride (1.0 eq.), 15.2 mg of HOAt (1.0 eq.), 57 μl of DIPEA (3 eq.) and 42.5 mg of HATU (1.0 eq.) were added successively to a solution of 41.0 mg of (S)-2-[(6-azaspiro[2.5]octane-6-carbonyl)amino]-4,4-difluoro-5-phenylpentanoic acid (0.11 mmol) in 5 ml of DMF. The reaction mixture was stirred at RT for 4 h and then concentrated under reduced pressure. The residue thus obtained was purified by preparative HPLC (gradient: acetonitrile/water and addition of 0.05% TFA). The product-containing fractions were combined and freeze-dried. In this way, N—[(S)-1-(1-cyanocyclopropylcarbamoyl)-3,3-difluoro-4-phenylbutyl]-6-azaspiro[2.5]octane-6-carboxamide was obtained as a colorless amorphous solid.

reactant | 1-aminocyclopropanecarbonitrile hydrochloride | 13.3 mg, 1.0 eq. | Cl.NC1(CC1)C#N
reactant | HOAt | 15.2 mg, 1.0 eq. | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIPEA | 57 μl, 3 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 42.5 mg, 1.0 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-2-[(6-azaspiro[2.5]octane-6-carbonyl)amino]-4,4-difluoro-5-phenylpentanoic acid | 0.11 mmol, 41.0 mg | C1CC12CCN(CC2)C(=O)N[C@H](C(=O)O)CC(CC2=CC=CC=C2)(F)F | C19H24F2N2O3
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N—[(S)-1-(1-cyanocyclopropylcarbamoyl)-3,3-difluoro-4-phenylbutyl]-6-azaspiro[2.5]octane-6-carboxamide | C(#N)C1(CC1)NC(=O)[C@H](CC(CC1=CC=CC=C1)(F)F)NC(=O)N1CCC2(CC2)CC1 | C23H28F2N4O2
